US07816352B2
1-(2-Methoxyimino-2-p-tolyl-ethyl)-quinolinium bromide (4)
A solution of quinoline and 2-bromo-1-p-tolylethanone O-methyl oxime was stirred refluxed in acetone for 5 days. A precipitate was separated by filtration and rinsed with Et2O to give a light orange solid in 11% yield: mp 285-288° C.; 1H NMR 500 MHz (DMSO-d6) δ 2.19 (s, 3H), 4.06 (s, 3H), 6.46 (s, 2H), 7.08 (d, 2H, J=7.9 Hz), 7.37 (d, 2H, J=8.2 Hz), 8.04 (t, 1H, J=7.3 Hz), 8.17 (m, 1H), 8.22 (d, 1H, J=9.2 Hz), 8.32 (m, 1H), 8.44 (d, 1H, J=7.9 Hz), 9.68 (d, 1H, J=8.2 Hz), 9.28 (d, 1H, J=5.8 Hz); Elem. anal. found: C, 61.17; H, 5.18; N, 7.50% (calcd for C19H19BrN2O: C, 61.47; H, 5.16; N, 7.55%).

reactant | quinoline | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | 2-bromo-1-p-tolylethanone O-methyl oxime | CON=C(CBr)C1=CC=C(C=C1)C | C10H12BrNO
solvent | acetone | CC(=O)C | C3H6O
product | 1-(2-Methoxyimino-2-p-tolyl-ethyl)-quinolinium bromide | 11% yield | [Br-].CON=C(C[N+]1=CC=CC2=CC=CC=C12)C1=CC=C(C=C1)C | InChI=1S/C19H19N2O.BrH/c1-15-9-11-16(12-10-15)18(20-22-2)14-21-13-5-7-17-6-3-4-8-19(17)21;/h3-13H,14H2,1-2H3;1H/q+1;/p-1
